US06790860B2
To a solution of (2S,4R)-(4-mercapto-1-methanesulfonyl-pyrrolidin-2-yl)-methanol (0.28 g) in dichloromethane (10 ml) were added pyridine (0.131 g) and acetic anhydride (0.160 g). The reaction mixture was stirred for 4 h at room temperature, treated with ice/water and extracted with EtOAc. The organic phase was washed with a saturated solution of sodium bicarbonate and brine, dried over magnesium sulphate and concentrated. The residue was chromatographed on silica gel using EtOAc/hexane 1:2 as eluent to obtain thioacetic acid (3R,5S)-S-(5-hydroxymethyl-1-methanesulfonyl-pyrrolidin-3-yl) ester (0.080 g) as a viscous oil.

reactant | (2S,4R)-(4-mercapto-1-methanesulfonyl-pyrrolidin-2-yl)-methanol | 0.28 g | S[C@@H]1C[C@H](N(C1)S(=O)(=O)C)CO | C6H13NO3S2
reactant | pyridine | 0.131 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.160 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | thioacetic acid (3R,5S)-S-(5-hydroxymethyl-1-methanesulfonyl-pyrrolidin-3-yl) ester | 0.080 g | OC[C@@H]1C[C@H](CN1S(=O)(=O)C)SC(C)=O | C8H15NO4S2
